* source LMG1020
C_C11         0 VDD  1u  
X_U3         N16649708 N16649704 D_D1
R_R19         N16649704 N16649708  4.02  
X_U5         VDD 0 N16649618 N16649734 N16649476 0 LMG1020
R_R20         N16649704 N16649708  4.02  
V_V15         VDD 0 5
V_V2         N16649618 0  
+PULSE 5 0 2u 1n 1n 0.499u 1u
V_V16         N16649704 0 20
R_R17         N16649704 N16649708  4.02  
R_R18         N16649704 N16649708  4.02  
C_C12         0 N16649708  4700p  
R_Routl         N16649476 OUT  1m  
X_U4         OUT N16649708 0 EPC2019 
R_R21         N16649708 0  1k  
R_Routh         N16649734 OUT  1m  
